US07511050B2
Step B: 7-bromo-3-(methylsulfinyl)-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one
To a mixture of 3-(methylsulfinyl)-9-pentyl-6,9-dihydro-5h-[1,2,4]triazolo[4,3-a]purin-5-one and 3-(methylsulfonyl)-9-pentyl-6,9-dihydro-5h-[1,2,4]triazolo[4,3-a]purin-5-one (3:2, 125 mg, 0.40 mmol) in THF (3 mL) was added N-bromosuccinimide (82.3 mg, 0.462 mmol). The mixture was stirred at 70° C. for 3 hours. The reaction was diluted with water and extracted with ethyl acetate three times, dried with sodium sulfate, filtered, and concentrated in vacuo. The crude residue was purified by Prep LCMS to yield the desired product. LCMS calculated for: C12H15BrN6O2S (M+H) 387.0; found: 387.0, 389.0.

reactant | 3-(methylsulfinyl)-9-pentyl-6,9-dihydro-5h-[1,2,4]triazolo[4,3-a]purin-5-one | CS(=O)C1=NN=C2N1C(C=1NC=NC1N2CCCCC)=O | C12H16N6O2S
reactant | 3-(methylsulfonyl)-9-pentyl-6,9-dihydro-5h-[1,2,4]triazolo[4,3-a]purin-5-one | 0.40 mmol, 125 mg | CS(=O)(=O)C1=NN=C2N1C(C=1NC=NC1N2CCCCC)=O | C12H16N6O3S
reactant | N-bromosuccinimide | 0.462 mmol, 82.3 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 7-bromo-3-(methylsulfinyl)-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one | BrC1=NC=2N(C=3N(C(C2N1)=O)C(=NN3)S(=O)C)CCCCC | C12H15BrN6O2S
